US05498751
In a similar manner, a mixture of 559 parts n-dodecyl alcohol, 387.4 parts methyl acrylate, 167 parts heptane, 1.5 parts dimethyltin dichloride, 0.4 parts sodium methoxide (molar ratio 1.08:1), 3.3 parts 4-methoxyphenol and 0.65 parts hydroquinone yielded, after work up, 672.2 parts (93.2 percent yield, based on n-dodecyl alcohol) of n-dodecyl acrylate, with a purity of 96.6 percent containing no detectable tin.

reactant | n-dodecyl alcohol | C(CCCCCCCCCCC)O | C12H26O
reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | dimethyltin dichloride | C[Sn](C)(Cl)Cl
reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | tin | [Sn] | Sn
solvent | heptane | CCCCCCC | C7H16
product | n-dodecyl acrylate | 93.2 percent yield | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
